US04025633
15 g of α-piperidinopropiophenone were added to a Grignard solution of 7.3 g of magnesium, 38.5 g of 6-bromo-2-methyl-4-tert-butylanisole and 28.2 g of 1,2,-dibromethane in 300 ml of diethyl ether. After boiling for 4 hours under reflux, the reaction mixture was poured on to ice and acidified with hydrochloric acid. The acidic aqueous solution and the oily intermediate layer were both separated, together made alkaline with a concentrated aqueous ammonia solution, and the base which separated therefrom was dissolved in diethyl ether. After evaporation of the diethyl ether, 26.5 g of a viscous brown oil were obtained from which, upon trituration of dilution with isopropanol, 21.5 g of 1-(2'-methoxy-3'-methyl-5'-tert-butylphenyl)-1-phenyl-2-piperidino-propan-1-ol, having a melting point of 86° C. to 87° C., crystallized out. The product was recrystallized from isopropanol and then had a melting point of 87° C. to 88° C.

reactant | α-piperidinopropiophenone | 15 g | N1(CCCCC1)C(C(=O)C1=CC=CC=C1)C | C14H19NO
reactant | magnesium | 7.3 g | [Mg] | Mg
reactant | 6-bromo-2-methyl-4-tert-butylanisole | 38.5 g | BrC1=CC(=CC(=C1OC)C)C(C)(C)C | C12H17BrO
reactant | 1,2,-dibromethane | 28.2 g | BrCCBr | C2H4Br2
reactant | hydrochloric acid | Cl | ClH
reactant | ammonia | N | H3N
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 1-(2'-methoxy-3'-methyl-5'-tert-butylphenyl)-1-phenyl-2-piperidino-propan-1-ol | 21.5 g | COC1=C(C=C(C=C1C)C(C)(C)C)C(C(C)N1CCCCC1)(O)C1=CC=CC=C1 | C26H37NO2
